US07700641B2
B. Synthesis of ethyl[3-(6-hydroxy-2,3-dihydro-1H-inden-5-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate
Following the procedure as described in PREPARATION 15B, and making non-critical variations to replace 3-(5-bromo-2-hydroxyphenyl)-3-hydroxy-1-pentyl-1,3-dihydro-2H-indol-2-one with ethyl[3-hydroxy-3-(6-hydroxy-2,3-dihydro-1H-inden-5-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate, the title compound was obtained: 1H NMR (300 MHz, CDCl3) δ 8.50-7.90 (br, 1H), 7.40-7.32 (m, 2H), 7.38 (td, 1H), 6.94 (s, 1H), 6.84 (d, 1H), 6.75 (s, 1H), 5.16 (s, 1H), 4.48 (ABq, 2H), 4.21 (q, 2H), 2.85 (t, 2H), 2.81-2.61 (m, 2H), 2.09-1.92 (m, 2H), 1.25 (t, 3H); MS (ES+) m/z 352 (M+1).

reactant | 3-(5-bromo-2-hydroxyphenyl)-3-hydroxy-1-pentyl-1,3-dihydro-2H-indol-2-one | BrC=1C=CC(=C(C1)C1(C(N(C2=CC=CC=C12)CCCCC)=O)O)O | C19H20BrNO3
reactant | ethyl[3-hydroxy-3-(6-hydroxy-2,3-dihydro-1H-inden-5-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate | C(C)OC(CN1C(C(C2=CC=CC=C12)(C=1C=C2CCCC2=CC1O)O)=O)=O | C21H21NO5
product | ethyl[3-(6-hydroxy-2,3-dihydro-1H-inden-5-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate | C(C)OC(CN1C(C(C2=CC=CC=C12)C=1C=C2CCCC2=CC1O)=O)=O | C21H21NO4
